*Ideal Comparator

.SUBCKT Ideal_Comparator in+ in- pos neg out

E1 out 0 value = {if(V(in+,in-)>0, V(pos) , V(neg))}
R1 in- in+ 100e6
R2 neg 0   100e6
R3 pos 0   100e6
.end Ideal_Comparator